US07566707B2
Methyl 2-bromo-5-(1-hydroxy-2-nitro-ethyl)-3-(3-methyl-2-buten-1-yl)-3H-imidazole-4-carboxylate
35 ml nitromethane are added to 1.14 g caesium carbonate in 15 ml of methanol at ambient temperature. Then the mixture is combined with a solution of 3.50 g methyl 2-bromo-3-(3-methyl-2-buten-1-yl)-5-formyl-3H-imidazole-4-carboxylate in 20 ml of methanol and 5 ml methylene chloride and stirred for 15 minutes at ambient temperature. Then 0.5 ml acetic acid are added and the solution is evaporated down in vacuo. The flask residue is combined with aqueous sodium hydrogen carbonate solution and extracted with ethyl acetate. The combined organic phases are dried over magnesium sulphate and evaporated down.

reactant | nitromethane | 35 ml | [N+](=O)([O-])C | CH3NO2
reactant | caesium carbonate | 1.14 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl 2-bromo-3-(3-methyl-2-buten-1-yl)-5-formyl-3H-imidazole-4-carboxylate | 3.50 g | BrC1=NC(=C(N1CC=C(C)C)C(=O)OC)C=O | C11H13BrN2O3
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 15 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-bromo-5-(1-hydroxy-2-nitro-ethyl)-3-(3-methyl-2-buten-1-yl)-3H-imidazole-4-carboxylate | BrC1=NC(=C(N1CC=C(C)C)C(=O)OC)C(C[N+](=O)[O-])O | C12H16BrN3O5
